data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2455,2723,[CH3:24][C:25](=[O:26])[C-:27]([C:28]#[N:29])[O+:30]=[C:31]([C:32]#[N:33])[C:34]#[N:35].[N:1]#[C:2][C:3]1([Cl:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1>>[N:1]#[C:2][C:3]1([Cl:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:31]([C:32]#[N:33])([C:34]#[N:35])[O:30][C:27]2([C:25]([CH3:24])=[O:26])[C:28]#[N:29],water,298.15,7.181549367134459,-52.55529642990336
3877,4436,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[C:18]([CH3:19])=[O:20],water,298.15,15.292394812357378,-33.36635570582288
2974,3323,[CH3:9][C:10]#[N+:11][CH-:12][CH3:13].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:12]([CH3:13])[N:11]=[C:10]1[CH3:9],water,298.15,10.046729173817488,-50.47116839616965
3358,3813,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][N+:6]([N-:7][C:8]#[N:9])=[C:10]([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:7]([C:8]#[N:9])[N:6]([CH3:5])[C:10]1([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,24.34818911866076,-12.600912835197589
4485,5118,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][CH:18]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,10.269333843296003,-26.161791904066693
2627,2914,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[CH-:29][NH+:30]=[CH:31][c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[CH:29]([C:27]([O:26][CH3:25])=[O:28])[NH:30][CH:31]2[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,water,298.15,10.618203074190925,-35.84802854072596
2563,2843,[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH:25]#[N+:26][C-:27]([C:28](=[O:29])[NH:30][CH3:31])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:27]([C:28](=[O:29])[NH:30][CH3:31])([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[N:26]=[CH:25]2,water,298.15,7.75530358828001,-60.488328564245656
1397,1538,[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[N+:15]([CH3:16])[C-:17]([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[C:12]([C:10]([NH:9][CH3:8])=[O:11])([C:13]#[N:14])[N:15]([CH3:16])[C:17]1([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,20.261542556745447,-40.80856199735224
5103,5793,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,21.689888806067167,-26.099825003351828
2902,3225,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6]#[N+:7][CH-:8][CH3:9]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:8]([CH3:9])[N:7]=[C:6]1[CH3:5],water,298.15,19.25404668698211,-51.87517559154425
3597,4105,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([N+:12]#[C:13][C:14]#[N:15])[C:16](=[O:17])[NH:18][CH3:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:16](=[O:17])[NH:18][CH3:19])[N:12]=[C:13]1[C:14]#[N:15],water,298.15,8.318108980465968,-40.28182361146246
